US09403831B2
(S)-(4-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)phenyl)(4-methylpiperazin-1-yl)methanone (48 mg, 0.083 mmol) was dissolved in CH2Cl2 (5 ml), and 4 N HCl in dioxane (1 ml) was added, followed by stirring at room temperature for 1 hour. After the reaction was completed, the reaction mixture was purified with ether to give (S)-(4-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)phenyl)(4-methylpiperazin-1-yl)methanone hydrochloride (46 mg, 90%).

reactant | (S)-(4-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)phenyl)(4-methylpiperazin-1-yl)methanone | 0.083 mmol, 48 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCC2)C2=NC=C(C=N2)C2=CC=C(C=C2)C(=O)N2CCN(CC2)C | C30H34N12O
reactant | HCl | 4 N | Cl | ClH
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (S)-(4-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)phenyl)(4-methylpiperazin-1-yl)methanone hydrochloride | 46 mg, 90% | Cl.CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCC2)C2=NC=C(C=N2)C2=CC=C(C=C2)C(=O)N2CCN(CC2)C | InChI=1S/C30H34N12O.ClH/c1-38-10-12-40(13-11-38)29(43)23-7-5-22(6-8-23)24-14-32-30(33-15-24)41-9-3-4-21(18-41)19-42-28-27(36-37-42)31-17-26(35-28)25-16-34-39(2)20-25;/h5-8,14-17,20-21H,3-4,9-13,18-19H2,1-2H3;1H/t21-;/m0./s1
